US06156700
Preparation of Ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetate
A mixture of ethyl 5-amino-α,α-dimethyl-1,2-benzisothiazole-3-acetate (0.546 g, 2.06 mmol) and 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one (0.430 g, 2.06 mmol) in acetic acid is refluxed for 4.5 hours, concentrated in vacuo, and diluted with saturated sodium hydrogen carbonate solution. The resultant aqueous mixture is extracted with methylene chloride. The combined organic extracts are washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a brown foam. A solution of the foam in N,N-dimethylformamide is treated with potassium carbonate (0.312 g, 2.25 mmol), stirred for one hour, treated with iodomethane (0.420 mL, 6.70 mmol), stirred overnight at room temperature, and poured into an ice-water mixture containing 20 mL of concentrated hydrochloric acid. The resultant aqueous-mixture is extracted with methylene chloride. The combined organic extracts are washed sequentially with 10% hydrochloric acid, water, saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a brown oil. Column chromatography of the oil using silica gel and a 33% ethyl acetate in methylene chloride solution affords a pink foam which is recrystallized from ethanol to give the title product as pink crystals, mp 164-167° C.

reactant | ethyl 5-amino-α,α-dimethyl-1,2-benzisothiazole-3-acetate | 2.06 mmol, 0.546 g | NC=1C=CC2=C(C(=NS2)C(C(=O)OCC)(C)C)C1 | C13H16N2O2S
reactant | 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one | 2.06 mmol, 0.430 g | CN(C=1OC(C=C(N1)C(F)(F)F)=O)C | C7H7F3N2O2
reactant | potassium carbonate | 2.25 mmol, 0.312 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 6.70 mmol, 0.420 mL | IC | CH3I
reactant | hydrochloric acid | 20 mL | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetate | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)OCC)(C)C)C1)=O | C19H18F3N3O4S
